US08541576B2
Tert-butyl 4-[(3-carbamoyl-8-iodo-4,5-dihydro-1H-pyrazolo[4,3-h]quinazolin-1-yl)methyl]piperidine-1-carboxylate [(XIV)]
To a solution of 8-iodo-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (prepared following the method reported in WO2008074788A1) 50 mg, (0.146 mmol) in DMF (3 ml), tert-butyl 4-(bromomethyl)piperidine-1-carboxylate 61 mg, (0.219 mmol) and Cs2CO3 95 mg, (0.293 mmol), were added. The mixture was heated at 70° C. and stirred for 4 hours. The cooled mixture was treated with water (10 ml) and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over Na2SO4, and concentrated. The crude material was purified by flash chromatography eluting with DCM/EtOH 9/1 to afford the desired title product 63 mg (80%) as a white solid. LC/MS (254 nm) HPLC method 2 Rt 6.51 min. 1H NMR (401 MHz, DMSO-d6) δ 8.46 (s, 1H), 7.47 (s, 1H), 7.32 (s, 1H), 4.50-4.55 (m, 2H), 3.84-3.96 (m, 2H), 2.99-3.07 (m, 2H), 2.84-2.95 (m, 2H), 2.59-2.75 (m, 2H), 2.07 (s, 1H), 1.56 (br. s., 2H), 1.39 (s, 9H), 1.08-1.22 (m, 2H). HRMS (ESI) calcd for C21H27IN6O3 [M+H]+ 539.1262 found 539.1274.

reactant | 8-iodo-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | IC1=NC=2C3=C(CCC2C=N1)C(=NN3)C(=O)N | C10H8IN5O
reactant | tert-butyl 4-(bromomethyl)piperidine-1-carboxylate | 0.219 mmol, 61 mg | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
reactant | Cs2CO3 | 0.293 mmol, 95 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 10 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Tert-butyl 4-[(3-carbamoyl-8-iodo-4,5-dihydro-1H-pyrazolo[4,3-h]quinazolin-1-yl)methyl]piperidine-1-carboxylate | 63 mg, 80% | C(N)(=O)C1=NN(C2=C1CCC=1C=NC(=NC21)I)CC2CCN(CC2)C(=O)OC(C)(C)C | C21H27IN6O3
